US04007282
Bis(4'-hydroxy-3'-tert.-butyl-phenyl)ethanoic acid
A solution of 82 g of glyoxylic acid . 1/2 H2O (1 mol) and 375 g of o-tert.-butyl-phenol (2.5 mols) in 300 ml of benzene was saturated at 40° C wtih gaseous hydrogen chloride and condensed at this temperature. From time to time, saturation was completed by adding a small amount of gaseous hydrogen chloride. After about 40 hours, condensation was complete. The precipitate which had separated upon cooling was suction-filtered and recrystallized from methylene chloride. The yield was 190 g (52 %, calculated on glyoxylic acid), m.p. 173° C.

reactant | glyoxylic acid | 82 g | C(C=O)(=O)O | C2H2O3
reactant | H2O | 1 mol | O | H2O
reactant | o-tert.-butyl-phenol | 2.5 mols, 375 g | C(C)(C)(C)C1=C(C=CC=C1)O | C10H14O
reactant | hydrogen chloride | Cl | ClH
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | Bis(4'-hydroxy-3'-tert.-butyl-phenyl)ethanoic acid | OC1=C(C=C(C=C1)C(C(=O)O)C1=CC(=C(C=C1)O)C(C)(C)C)C(C)(C)C | C22H28O4
